US06248739B1
N-(4-Chlorobenzyl)-1-(4-morpholinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
Ethyl 1-(4-morpholinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxylate (5.0 g) from Preparation No. 56 and 4-chlorobenzylamine (7.6 mL) are combined and heated to 190° C. for 7 hours. After cooling to room temperature, the mixture solidifies. The solid is triturated with a 10:1 mixture of EtOAc/MTBE (30 mL) and filtered on a frit. The crude solid is triturated again, this time with a hot mixture of 10:1 EtOAc/MTBE (110 mL). The suspension is cooled to room temperature and filtered on a frit to afford 4.9 g (79%) of the title compound as a white solid.

reactant | Ethyl 1-(4-morpholinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 5.0 g | N1(CCOCC1)N1C=C(C(C2=CC(=CC=C12)CN1CCOCC1)=O)C(=O)OCC | C21H27N3O5
reactant | 4-chlorobenzylamine | 7.6 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-1-(4-morpholinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 4.9 g, 79% | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)N2CCOCC2)C=C1 | C26H29ClN4O4
